US08957069B2
5-bromo-4,6,7-trimethyl-2′,3′,5′,6′-tetrahydro-3H-spiro[1-benzofuran-2,4′-pyran]-3-one
Potassium tert-butoxide (2.63 g, 23.5 mmol) was added to a solution of THF (60 mL) containing 5-bromo-4,6,7-trimethyl-1-benzofuran-3(2H)-one (2.00 g, 7.83 mmol) synthesized in Reference Example 45 and bis(2-bromoethyl)ether (2.72 g, 11.7 mmol), and the mixture was stirred at room temperature. After stirring for 15 hours, the reaction solution was poured into a saturated ammonium chloride aqueous solution and extracted using ethyl acetate. The extract was washed with saturated saline, and dried using anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate 98:2 to 92:8) to give 200 mg of the title compound (yield: 8%).

reactant | Potassium tert-butoxide | 23.5 mmol, 2.63 g | CC(C)([O-])C.[K+]
reactant | 5-bromo-4,6,7-trimethyl-1-benzofuran-3(2H)-one | 7.83 mmol, 2.00 g | BrC=1C(=C(C2=C(C(CO2)=O)C1C)C)C | C11H11BrO2
reactant | bis(2-bromoethyl)ether | 11.7 mmol, 2.72 g | BrCCOCCBr | C4H8Br2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-bromo-4,6,7-trimethyl-2′,3′,5′,6′-tetrahydro-3H-spiro[1-benzofuran-2,4′-pyran]-3-one | 200 mg, yield: 8% | BrC=1C(=C(C2=C(C(C3(CCOCC3)O2)=O)C1C)C)C | C15H17BrO3
